* Simple 3-input summing amplifier

* Input sources
V1 vi1 0 PULSE(-1 1 0 20m 1u 1u 20m)
V2 vi2 0 PULSE(0 1 0 20m 1u 1u 20m)
V3 vi3 0 PULSE(-1 0 0 20m 1u 1u 20m)

* Input resistors
R1 vi1 NINV 125k
R2 vi2 NINV 50k
R3 vi3 NINV 25k

* Fixed DC 4th input
Vdc vdc 0 -1.5 * fixed
R4 vdc NINV 50k

* Feedback resistor
RF vo NINV 10k
* Feedback capacitor
Cf vo NINV 100n IC=0

* Ideal op-amp
EOP vo 0 NNON NINV 1e6

* Bias voltage
Vbias NNON 0 -0.25 * fixed

* Output load
RL vo 0 10k

.tran 0 80m 0 1.0u
* .ac dec 100 10 20k
.wav "vin1.wav" 32 48k V(vi1)
.wav "vin2.wav" 32 48k V(vi2)
.wav "vin3.wav" 32 48k V(vi3)
.wav "vout.wav" 32 48k V(vo)
.options plotwinsize=0
.backanno
.end
